US05849765
Step 1: 4-(5-Chlorobenzothiazol-2-yl)pyridine
2-Amino-4-chlorothiophenol (6.5 g, 0.04 mol) and 4-pyridine carboxaldehyde (4.4. g, 0.04 mol) were reacted as exemplified in Example 7 step 1, to afford the title compound as a brown solid (1.8 g, 20%). δH (CDCl3), 7.44 (1H, m, ArH), 7.86 (1H, m, ArH), 7.92 (2H, m, ArH), 8.08 (1H, s, ArH), 8.78 (2H, m, ArH). m/z (ES+) 247 (M+1)+.

reactant | 2-Amino-4-chlorothiophenol | 0.04 mol, 6.5 g | NC1=C(C=CC(=C1)Cl)S | C6H6ClNS
reactant | 4-pyridine carboxaldehyde | 0.04 mol | N1=CC=C(C=C1)C=O | C6H5NO
product | 4-(5-Chlorobenzothiazol-2-yl)pyridine | 1.8 g, 20% | ClC=1C=CC2=C(N=C(S2)C2=CC=NC=C2)C1 | C12H7ClN2S
